US05532245
Preparation of 3-ethoxy-4-(4-trifluoromethoxy-phenylamino)-cyclobut-3-ene-1,2-dione
4-Trifluoromethoxyaniline (5.00 g, 28.2 mmol) was added to a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (5.00 g, 29.4 mmol) in absolute ethanol (50 mL). The mixture was heated at reflux overnight, then vacuum filtered hot. The filtrate was reduced in volume and the resulting precipitate was filtered to afford 4.50 g (53%) of white solid: mp 145°-146° C.; 1H NMR (DMSO-d6): δ 10.87 (s, 1H), 7.45 (d, 2H), 7.36 (d, 2H), 4.75 (q, 2H), 1.41 (t, 3H).

reactant | 4-Trifluoromethoxyaniline | 28.2 mmol, 5.00 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 29.4 mmol, 5.00 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-ethoxy-4-(4-trifluoromethoxy-phenylamino)-cyclobut-3-ene-1,2-dione | 4.50 g, 53% | C(C)OC=1C(C(C1NC1=CC=C(C=C1)OC(F)(F)F)=O)=O | C13H10F3NO4
